data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1363,1498,[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2.[N:13]#[C:14][c:15]1[nH+:16][c-:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[c:24](=[O:25])[o:26]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]1([c:18]3[cH:19][cH:20][cH:21][cH:22][cH:23]3)[NH:16][C:15]2([C:14]#[N:13])[O:26][C:24]1=[O:25],water,298.15,16.903205532886428,-9.764179918714271
4046,4635,[CH3:10][O:11][C:12](=[O:13])[c:14]1[o:15][c:16](=[O:17])[c-:18]([CH3:19])[n+:20]1[CH3:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:18]2([CH3:19])[C:16](=[O:17])[O:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[N:20]2[CH3:21],water,298.15,25.64660450309731,-0.9866024705676676
4202,4807,[CH3:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:15]([C:16]#[N:17])=[N:14][C:13]1([C:11]([CH3:10])=[O:12])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,17.984651169467426,-28.095437915094266
2486,2761,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([C:21]#[N:22])[N+:23]([CH3:24])=[C:25]([C:26](=[O:27])[O:28][CH3:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][O:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:25]([C:26](=[O:27])[O:28][CH3:29])([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[N:23]([CH3:24])[C:20]2([C:18]([NH:17][CH3:16])=[O:19])[C:21]#[N:22],water,298.15,34.19377834555173,-7.036605528384662
714,775,[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2.[N:14]#[C:15][C:16]#[N+:17][CH-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[CH:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[N:17]=[C:16]2[C:15]#[N:14],water,298.15,8.109270726280494,-49.81791567234332
2621,2905,[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2.[cH:12]1[cH:13][cH:14][c:15]([C:16](=[O+:17][C-:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[c:25]2[cH:26][cH:27][cH:28][cH:29][cH:30]2)[c:31]2[cH:32][cH:33][cH:34][cH:35][cH:36]2)[cH:37][cH:38]1>>[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[O:17][C:16]3([c:15]1[cH:14][cH:13][cH:12][cH:38][cH:37]1)[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,10.704910525728645,-57.65615566422928
2520,2799,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([Cl:13])([C:14](=[O:15])[O:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[N:22]#[C:23][N-:24][O+:25]=[C:26]([C:27]#[N:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([Cl:13])([C:14](=[O:15])[O:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:26]([C:27]#[N:28])([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[O:25][N:24]2[C:23]#[N:22],water,298.15,10.531387533791248,-41.95445967809647
475,520,[CH3:11][C:12](=[O+:13][NH-:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[NH:14][O:13][C:12]3([CH3:11])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,16.456360676553754,-54.10282515044346
1098,1196,[CH3:1][C:2](=[O:3])[C:4]#[C:5][C:6]([CH3:7])=[O:8].[CH3:9][C:10](=[O:11])[C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)=[N+:19]([CH3:20])[C-:21]([CH3:22])[C:23]([CH3:24])=[O:25]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([CH3:7])=[O:8])[C:21]([CH3:22])([C:23]([CH3:24])=[O:25])[N:19]([CH3:20])[C:12]1([C:10]([CH3:9])=[O:11])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,20.75951202555537,-40.01049357640583
4018,4603,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[C:11]([C:12]#[N:13])=[N+:14]([CH3:15])[C-:16]([C:17]#[N:18])[C:19]([CH3:20])=[O:21]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:16]([C:17]#[N:18])([C:19]([CH3:20])=[O:21])[N:14]([CH3:15])[C:11]1([C:9]([O:8][CH3:7])=[O:10])[C:12]#[N:13],water,298.15,24.13419784833837,-17.898376210848888
1129,1228,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([C:17]([CH3:18])=[O:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2](=[O:3])[C:4]#[C:5][C:6]([F:7])([F:8])[F:9]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[C:16]([C:17]([CH3:18])=[O:19])([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[N:15]=[C:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,10.790989424738065,-60.939520473454245
